US04252810
9-Hydroximino-4-methylene-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene (5.7 g), sodium cyanoborohydride (5.4 g) and methyl orange (0.05 g) are stirred in methanol (150 ml). A solution of concentrated HCl in methanol (1:1 v/v) is added dropwise at a rate sufficient to maintain the mixture at the indicator turning point until thin layer chromatography (silica gel plate, methylene chloride elution) indicates the starting oxime has been consumed (2-3 hours). The mixture is evaporated to dryness in vacuo and the residue is treated with water (250 ml) and adjusted to pH 8 with concentrated ammonia. The mixture is extracted with ether (3×80 ml) and the combined ether layers are washed with water, dried over sodium sulfate, filtered and evaporated to dryness in vacuo to give 9-hydroxamino-4-methylene-9,10-dihydro-4H-benzo[4,5]cyclohepta-[1,2-b]thiophene.

reactant | 9-Hydroximino-4-methylene-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene | 5.7 g | N(O)=C1C2=C(C(C3=C(SC=C3)C1)=C)C=CC=C2 | C14H11NOS
reactant | sodium cyanoborohydride | 5.4 g | C(#N)[BH3-].[Na+]
reactant | methyl orange | 0.05 g | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | HCl | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 9-hydroxamino-4-methylene-9,10-dihydro-4H-benzo[4,5]cyclohepta-[1,2-b]thiophene | N(O)C1C2=C(C(C3=C(SC=C3)C1)=C)C=CC=C2 | C14H13NOS
